US07943774B2
2-(5-Chloro-1-methyl-1H-pyrazol-4-yl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-65)
4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 280 mg) is reacted analogously to Example I-63 with (5-chloro-1-methyl-1H-pyrazol-4-yl)acetic acid (174 mg). After chromatographic purification, this gives 2-(5-chloro-1-methyl-1H-pyrazol-4-yl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (89 mg).

reactant | 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 280 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | (5-chloro-1-methyl-1H-pyrazol-4-yl)acetic acid | 174 mg | ClC1=C(C=NN1C)CC(=O)O | C6H7ClN2O2
product | 2-(5-Chloro-1-methyl-1H-pyrazol-4-yl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | ClC1=C(C=NN1C)CC(=O)N1CCC(CC1)C=1SC=C(N1)CCC1=CC=CC=C1 | C22H25ClN4OS
